US08703951B2
A solution of dimethyl 3,6-dimethyl-6,11-dihydro-5H-indolizino[6,7-b]indole-1,2-dicarboxylate (3.5 g, 10.0 mmol) in anhydrous dichloromethane (35 mL) was added dropwise into a stirred suspension of LiAlH4 (0.9 g, 25.0 mmol) in anhydrous diethyl ether (20 mL) at 0 to −5° C. The reaction mixture was further stirred for 15 min after the addition was completed. The excess hydride was destroyed by the sequential addition of water (1 mL), 15% aqueous NaOH (1 mL), and water (1 mL) at 0° C. The mixture was filtered through a pad of Celite, the solid residue was washed with dichloromethane. The combined filtrate and washings were evaporated to dryness in vacuo. The residue was triturated with ether to give [3,6-dimethyl-6,11-dihydro-5H-indolizino[6,7-b]indole-1,2-diyl]dimethanol (BO-1922), 2.3 g (79%); mp 200-201° C. 1H NMR (DMSO-d6) δ 2.29 (3H, s, Me), 3.73 (3H, s, Me), 3.99 (2H, s, CH2), 4.38 (4H, brs, CH2 and exchangeable, OH), 4.44 (2H, s, CH2), 5.13 (2H, s, CH2), 7.05 (1H, t, J=7.4 Hz, ArH), 7.16 (1H, t, J=7.4 Hz, ArH), 7.46 (1H, d, J=7.8 Hz, ArH), 7.53 (1H, d, J=7.8 Hz, ArH). Anal. Calcd for (C18H20N2O2.0.5H2O): C, 70.80; H, 6.93; N, 9.17. Found: C, 70.85; H, 6.65; N, 9.02.

reactant | dimethyl 3,6-dimethyl-6,11-dihydro-5H-indolizino[6,7-b]indole-1,2-dicarboxylate | 10.0 mmol, 3.5 g | CC1=C(C(=C2CC3=C(N(C=4C=CC=CC34)C)CN12)C(=O)OC)C(=O)OC | C20H20N2O4
reactant | LiAlH4 | 25.0 mmol, 0.9 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | [3,6-dimethyl-6,11-dihydro-5H-indolizino[6,7-b]indole-1,2-diyl]dimethanol | CC1=C(C(=C2CC3=C(N(C=4C=CC=CC34)C)CN12)CO)CO | C18H20N2O2
